US09079866B2
Step A: (4-(6-Aminopyridin-3-yl)-3-fluorophenyl)boronic acid
5-(4-Chloro-2-fluorophenyl)pyridin-2-amine (2.0 g, 9.0 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (2.9 g, 11.0 mmol), chloro(2-dicyclohexyl-phosphino-2′,4′,6′-triisopropyl-1,1′-biphenyl)[2-(2′-amino-1,1′-biphenyl)]palladium(II) (0.14 g, 0.18 mmol), and KOAc (2.7 g, 27 mmol) were combined in a sealable reaction vessel under nitrogen, and then treated with anhydrous 1,4-dioxane (100 mL, sparged with nitrogen). The vessel was sealed and then heated at 80° Celsius for 16 hours. The mixture was cooled to rt, HCl (1 m, 50 mL) was added and the mixture stirred for 20 min. The mixture was then diluted with EtOAc (200 mL) and the aqueous phase was collected. The organic phase was extracted with 1 M HCl (2×75 mL). The combined aqueous phases were cooled in an icebath and the pH was adjusted to ca. 7 using solid sodium bicarbonate. The resulting precipitate was collected by filtration, washed well with water, and dried to provide the title compound (2.1 g, 98%). MS (CI): mass calcd. for C11H10BFN2O2, 232.08; m/z found, 233.1 [M+H]+. 1H NMR (500 MHz, DMSO-d6) δ 8.29-8.20 (s, 2H), 8.18-8.13 (s, 1H), 7.80-7.72 (m, 1H), 7.69-7.63 (m, 1H), 7.63-7.57 (m, 1H), 7.51-7.44 (m, 1H), 6.84-6.57 (m, 3H).

reactant | 5-(4-Chloro-2-fluorophenyl)pyridin-2-amine | 9.0 mmol, 2.0 g | ClC1=CC(=C(C=C1)C=1C=CC(=NC1)N)F | C11H8ClFN2
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 11.0 mmol, 2.9 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | KOAc | 27 mmol, 2.7 g | CC(=O)[O-].[K+]
reactant | HCl | 50 mL | Cl | ClH
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
solvent | 1,4-dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | (4-(6-Aminopyridin-3-yl)-3-fluorophenyl)boronic acid | 2.1 g, 98% | NC1=CC=C(C=N1)C1=C(C=C(C=C1)B(O)O)F | C11H10BFN2O2
